US07402680B2
2-Isopropyl-5,5,7,7-tetramethyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
The title compound (98 mg) was prepared as in Step B of Example 294 using 196 mg trifluoro-methanesulfonic acid 2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl ester and 87 mg of phenylboronic acid. MS (ESI): exact mass calculated for C20H29N3, 311.24; found, m/z 312.5 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.57-7.52 (m, 3H), 7.32-7.31 (m, 2H), 4.34 (m, 1H), 3.11 (s, 2H), 2.71 (s, 2H), 1.49-1.34 (m, 18H).

reactant | trifluoro-methanesulfonic acid 2-isopropyl-5,5,7,7-tetramethyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulen-3-yl ester | 196 mg | C(C)(C)N1N=C2CC(NC(CC2=C1OS(=O)(=O)C(F)(F)F)(C)C)(C)C | C15H24F3N3O3S
reactant | phenylboronic acid | 87 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 2-Isopropyl-5,5,7,7-tetramethyl-3-phenyl-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 98 mg | C(C)(C)N1N=C2CC(NC(CC2=C1C1=CC=CC=C1)(C)C)(C)C | C20H29N3
